### ISSUE TITLE
Overspecialised forall universe variable?

### ISSUE THREAD

**Issue by lovely-error** [leanprover/lean4#13023]
### Description

It looks like Lean incorrectly handles universal universe variables

```lean4
def Ex.{u, k} := ∀ (_:Sort u), Sort k

example (K: Ex) : Unit := by

  let _1 := K (0 = 0)
  let _ := K Nat -- this should be accepted, but it errors

  exact .unit
```

[Playground link](https://live.lean-lang.org/#project=lean-nightly&codez=FAEwpgZgBAogHgOgN4FcA0UDWBfKAuAXikAAiKACgH08BlAewCcAXKFASgzqa2GDDgEMAtgAcANmHIBpPLDit8UAKoA7AJbNCUAEYBPHlCjjmFAIz4ik8gAYoRK62AGjUCuaiWAcv2YBaH1EYAC1UAZygQwNoUURBtCX4AYwSwYUYwEH0oPkTmBBQ1Rh4AYjAAN35RKAAZMH5lBFKwehDVWmVqRnpVZQBzIA)

**Comment by leodemoura** [comment]
This is working as intended. When you write `K : Ex`, Lean picks specific (but initially unknown) universe levels for `u` and `k`, so `K : ∀ (_:Sort ?u), Sort ?k` for some fixed `?u` and `?k`.

The line `let _1 := K (0 = 0)` forces `?u = 0` because `0 = 0 : Prop` and `Prop = Sort 0`.

After that, `K Nat` would require `?u = 1` because `Nat : Type` and `Type = Sort 1`. But `?u` is already fixed to `0`, so this fails.

A universe-polymorphic variable doesn't mean "works for all universes at once" — it means the caller picks *one* specific universe at the point of use. If you need `K` to work at multiple universe levels simultaneously, you need a universe-polymorphic function, not a single monomorphic value:

```lean
example (K : ∀ {u : _}, @Ex u 1) : Unit := by
  let _1 := K (0 = 0)  -- uses u = 0
  let _2 := K Nat       -- uses u = 1
  exact .unit
```

Or simply use two separate bindings at different universe levels.

**Comment by lovely-error** [comment]
So, uhh, I tried pasting this into the web playground and got errors
```lean4
def Ex.{u, k} := ∀ (_:Sort u), Sort k

example (K : ∀ {u : _}, @Ex u 1) : Unit := by
  let _1 := K (0 = 0)  -- uses u = 0
  let _2 := K Nat       -- uses u = 1
  exact .unit
```
You surely meant that this snippet should work, right? Lean doesn't recognise this `K : ∀ {u : _}, @Ex u 1` as a valid expression


I guess I messed up the k bit a bit.
```lean4
def Ex.{u} : Sort (u+1) := ∀ (_:Sort u), Sort u -- A function whose resulting sort number depends on the input sort number
example (K : ∀ {u : _}, Ex.{u}) : Unit := by
  let _1 := K (0 = 0)  -- uses u = 0, should force nothing on K
  let _2 := K Nat       -- uses u = 1, should force nothing on K
  exact .unit
```

But this `K: ∀ {u : _}, Ex.{u}` and this `K : ∀ {u : _}, @Ex u 1` aren't accepted, so how to define such function?

**Comment by lovely-error** [comment]
@leodemoura are you there?
